US09233098B2
4. Preparation of 2-[1-[4-(6-fluoro-2-naphthamido)benzyl]-1H-indazol-3-yl]acetic acid
Ethyl 2-[1-[4-(6-fluoro-2-naphthamido)benzyl]-1H-indazol-3-yl]acetate (262 mg, 0.544 mmol) was dissolved in tetrahydrofuran (10 mL), and in an ice bath 10 mL aqueous solution dissolving lithium hydroxide monohydrate (114 mg, 2.71 mmol) was added. It was reacted at room temperature for 3 h, and the reaction was monitored to be complete by TLC. Water was added into the system, and adjusted to pH≈3-4 with diluted hydrochloric acid. A solid precipitated, which was filtered and dried to obtain a white solid 228 mg, at a yield of 92.5%.

reactant | Ethyl 2-[1-[4-(6-fluoro-2-naphthamido)benzyl]-1H-indazol-3-yl]acetate | 0.544 mmol, 262 mg | FC=1C=C2C=CC(=CC2=CC1)C(=O)NC1=CC=C(CN2N=C(C3=CC=CC=C23)CC(=O)OCC)C=C1 | C29H24FN3O3
reactant | lithium hydroxide monohydrate | 2.71 mmol, 114 mg | O.[OH-].[Li+]
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-[1-[4-(6-fluoro-2-naphthamido)benzyl]-1H-indazol-3-yl]acetic acid | 228 mg, yield of 92.5% | FC=1C=C2C=CC(=CC2=CC1)C(=O)NC1=CC=C(CN2N=C(C3=CC=CC=C23)CC(=O)O)C=C1 | C27H20FN3O3
